US09102692B2
Copper (I) iodide (16 mg, 0.086 mmol), L-proline (37 mg, 0.32 mmol), and [5-amino-1-(2-methyl-1H-benzimidazol-5-yl)-1H-pyrazol-4-yl]-[6-iodo-1-(toluene-4-sulfonyl)-1H-indol-2-yl]-methanone (104 mg) were dissolved in anhydrous dimethylsulfoxide (DMSO), and then 1,8-diazabicyclo[5.4.0]undec-7-ene (49 μl) and 2-methoxyethylamine (43 μl) were added thereto. The mixture was heated at 80° C. with stirring under a nitrogen atmosphere for 18 hours. After the reaction mixture was cooled to room temperature, 25% ammonia water was added thereto. The resulting mixture was extracted with ethyl acetate. The organic layer was isolated, washed with an aqueous solution of 1 M hydrochloric acid and then with a saturated aqueous solution of sodium chloride, and dried over anhydrous magnesium sulfate. After the desiccant was removed by filtration, the solvent was distilled off under reduced pressure. The resulting residue was purified by chromatography (dichloromethane/methanol=100/5) using a small amount of silica gel to give crude product of [5-amino-1-(2-methyl-1H-benzimidazol-5-yl)-1H-pyrazol-4-yl]-[4-(2-methoxy-ethylamino)-1-(toluene-4-sulfonyl)-1H-indol-2-yl]-methanone. The obtained crude product was used in subsequent reactions without purification.

reactant | L-proline | 0.32 mmol, 37 mg | N1[C@H](C(=O)O)CCC1 | C5H9NO2
reactant | [5-amino-1-(2-methyl-1H-benzimidazol-5-yl)-1H-pyrazol-4-yl]-[6-iodo-1-(toluene-4-sulfonyl)-1H-indol-2-yl]-methanone | 104 mg | NC1=C(C=NN1C1=CC2=C(NC(=N2)C)C=C1)C(=O)C=1N(C2=CC(=CC=C2C1)I)S(=O)(=O)C1=CC=C(C=C1)C | C27H21IN6O3S
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 49 μl | N12CCCCCC2=NCCC1 | C9H16N2
reactant | 2-methoxyethylamine | 43 μl | COCCN | C3H9NO
reactant | ammonia water | O.N
solvent | dimethylsulfoxide | CS(=O)C | C2H6OS
catalyst | Copper (I) iodide | 0.086 mmol, 16 mg | [Cu]I
product | [5-amino-1-(2-methyl-1H-benzimidazol-5-yl)-1H-pyrazol-4-yl]-[4-(2-methoxy-ethylamino)-1-(toluene-4-sulfonyl)-1H-indol-2-yl]-methanone | NC1=C(C=NN1C1=CC2=C(NC(=N2)C)C=C1)C(=O)C=1N(C2=CC=CC(=C2C1)NCCOC)S(=O)(=O)C1=CC=C(C=C1)C | C30H29N7O4S
